US05849764
1-{2-(3,5-dimethylphenyl)-3 -[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanone O-methyloxime
To a solution of 1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanone (22 mg in 0.50 mL methanol) was added 102 mg sodium acetate (trihydrate) followed by 63 mg methoxylamine hydrochloride and the mixture stirred at room temperature. After 20 hours, the mixture was concentrated in vacuo and the residue suspended in ethyl acetate, and washed successively with saturated aqueous sodium bicarbonate and brine. The organic portion was dried over sodium sulfate and the concentrate purified by preparative TLC on silica gel (methylene chloride:methanol:ammonium hydroxide, 90:10:0.25) to give the title compound (23 mg). m/e=469 (M+H).

reactant | 1-{2-(3,5-dimethylphenyl)-3-[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanone | 0.50 mL, 22 mg | CC=1C=C(C=C(C1)C)C=1NC2=CC=C(C=C2C1CCNCCCCC1=CC=NC=C1)C(C)=O | C29H33N3O
reactant | sodium acetate | 102 mg | C(C)(=O)[O-].[Na+]
reactant | methoxylamine hydrochloride | 63 mg | Cl.O(C)N
product | 1-{2-(3,5-dimethylphenyl)-3 -[2-(4-pyridin-4-yl-butylamino)ethyl]-1H-indol-5-yl}ethanone O-methyloxime | 23 mg | CON=C(C)C=1C=C2C(=C(NC2=CC1)C1=CC(=CC(=C1)C)C)CCNCCCCC1=CC=NC=C1 | C30H36N4O
